US08372525B2
N,N′-bis(4-iso-propylphenyl)-chrysene-6,12-diamine
In the drybox, a 500 mL one-neck round-bottom flask was charged with dibromochrysene (9 g, 23.3 mmol), 4-iso-propylaniline (6.61 g, 48.9 mmol) and 200 mL of dry toluene. In a separate 100 ml flask, Pd2(dba)3 (0.192 g, 0.21 mmol), P(t-Bu)3 (0.085 g, 0.42 mmol) were dissolved in 25 ml of dry toluene, stirred for 10 minutes and then added to the dibromochrysene/aniline solution. After ten minutes of stirring, sodium tert-butoxide (4.48 g, 46.6 mmol) was added in one portion. The reaction flask was brought out of the drybox, capped with a nitrogen inlet and stirred in an 80° C. oil bath overnight (18 h). Next day, reaction mixture was cooled to room temperature, poured onto 15 g of silica gel and 15 g of celite, swirled around for a few minutes and filtered through a 4 inch plug of silica gel, washing with 5.5 liters of toluene. Volatiles were removed under vacuum to give a dark yellow solid. The solid was triturated with diethyl ether, vacuum filtered and washed with minimal amount of ether. The resulting yellow solid was dried on a high vacuum line. Yield 8.68 g (75.5%). The compound was confirmed by NMR analysis.

reactant | dibromochrysene | 23.3 mmol, 9 g | BrC1=C(C=2C=CC3=C4C=CC=CC4=CC=C3C2C=C1)Br | C18H10Br2
reactant | 4-iso-propylaniline | 48.9 mmol, 6.61 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | P(t-Bu)3 | 0.42 mmol, 0.085 g | P(C(C)(C)C)(C(C)(C)C)C(C)(C)C | C12H27P
reactant | dibromochrysene aniline | BrC1=C(C=2C=CC3=C4C=CC=CC4=CC=C3C2C=C1)Br.NC1=CC=CC=C1
reactant | sodium tert-butoxide | 46.6 mmol, 4.48 g | CC(C)([O-])C.[Na+]
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.21 mmol, 0.192 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | N,N′-bis(4-iso-propylphenyl)-chrysene-6,12-diamine | C(C)(C)C1=CC=C(C=C1)NC=1C=C2C=3C=CC=CC3C(=CC2=C2C=CC=CC12)NC1=CC=C(C=C1)C(C)C | C36H34N2
